US05041637
5-(3,4-dimethoxybenzyl)hydantoin
A mixture of 215 ml of water, 215 ml of a 27% (w/v) aqueous solution of ammonium hydroxide, 35.3 g of sodium cyanide, 113.3 g of ammoniun bicarbonate, 47.5 g of ammonium sulfate and a solution containing 129.6 g of 3.4-dimethoxyphenylacetaldehyde in 900 ml of trichloroethane is heated at 90° C. for 6 hours in an antoclave and then is cooled and filtered.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium cyanide | 35.3 g | [C-]#N.[Na+]
reactant | bicarbonate | 113.3 g | C([O-])(O)=O
reactant | ammonium sulfate | 47.5 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 3.4-dimethoxyphenylacetaldehyde | 129.6 g | COC=1C=C(C=CC1OC)CC=O | C10H12O3
solvent | trichloroethane | 900 ml | C(C(Cl)Cl)Cl | C2H3Cl3
solvent | water | 215 ml | O | H2O
product | 5-(3,4-dimethoxybenzyl)hydantoin | COC=1C=C(CC2C(NC(N2)=O)=O)C=CC1OC | C12H14N2O4
